US04154935
1-(2-Acetylthio-3,3,3-trifluoropropanoyl)-L-proline (4 g.) is dissolved in a mixture of water (8 ml.) and concentrated ammonia (8 ml.) under a blanket of nitrogen. After thirty minutes at room temperature, the reaction mixture is acidified and extracted with ethyl acetate. The organic phase is dried over magnesium sulfate and concentrated to dryness in vacuo to yield 1-(2-mercapto-3,3,3-trifluoropropanoyl)-L-proline.

reactant | 1-(2-Acetylthio-3,3,3-trifluoropropanoyl)-L-proline | 4 g | C(C)(=O)SC(C(=O)N1[C@H](C(=O)O)CCC1)C(F)(F)F | C10H12F3NO4S
solvent | water | 8 ml | O | H2O
solvent | ammonia | 8 ml | N | H3N
product | 1-(2-mercapto-3,3,3-trifluoropropanoyl)-L-proline | SC(C(=O)N1[C@H](C(=O)O)CCC1)C(F)(F)F | C8H10F3NO3S
